US08048897B2
(3) Synthesis of 2-(4-Methanesulfonylbenzyl)phenol
In a nitrogen stream, a 20% palladium hydroxide catalyst (299 mg) and 36% HCl (150 μL, 1.78 mmol) were added to a solution of (2-benzyloxyphenyl)-(4-methane-sulfonylphenyl)methanol (3.00 g, 8.14 mmol) in a mixture of methanol (30 mL) and ethyl acetate (30 mL), and the mixture was stirred under a hydrogen atmosphere for six hours. To the reaction mixture was added sodium hydrogencarbonate and the mixture was stirred for 30 minutes to be neutralized, and then the catalyst was filtered off. The solvent was distilled under reduced pressure and the obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:2)] to obtain the title compound (1.81 g, 85%).

reactant | HCl | 1.78 mmol, 150 μL | Cl | ClH
reactant | (2-benzyloxyphenyl)-(4-methane-sulfonylphenyl)methanol | 8.14 mmol, 3.00 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(O)C1=CC=C(C=C1)S(=O)(=O)C | C21H20O4S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
catalyst | palladium hydroxide | 299 mg | [OH-].[Pd+2].[OH-]
solvent | methanol | 30 mL | CO | CH4O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 2-(4-Methanesulfonylbenzyl)phenol | 1.81 g, 85% | CS(=O)(=O)C1=CC=C(CC2=C(C=CC=C2)O)C=C1 | C14H14O3S
